US05663189
To a stirred solution of 0.78 g of 5-isothiocyanato-4-methyl-1,3-benzodioxole in 50 mL of toluene at 25° C. is added 0.80 mL of ethylenediamine. After five minutes, the mixture is concentrated under reduced pressure to yield 1.0 g of 5-[N'-(2-aminoethyl)thioureido]-4-methyl-1,3-benzodioxole as a white solid.

reactant | 5-isothiocyanato-4-methyl-1,3-benzodioxole | 0.78 g | N(=C=S)C1=C(C2=C(OCO2)C=C1)C | C9H7NO2S
reactant | ethylenediamine | 0.80 mL | C(CN)N | C2H8N2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[N'-(2-aminoethyl)thioureido]-4-methyl-1,3-benzodioxole | 1.0 g | NCCNC(NC1=C(C2=C(OCO2)C=C1)C)=S | C11H15N3O2S
